US07037932B2
a) 7-Benzyloxy-1-methyl-1H-indole
To a solution of 7-benzyloxy-1H-indole (Ref: Dobson, D; Todd, A; Gilmore, J. Synth. Commun. (1991), 21(5), 611–17) (1.29 g, 5.78 mmol) in ethanol (30 mL) was added potassium hydroxide (0.41 g, 7.23 mmol) and dichloromethane (5 mL) of to help solubilize the starting material. The resulting solution was allowed to stir at room temperature for 10 min before evaporating the solvent in vacuo. The residue was taken up in acetone (75 mL) and sodium sulfate (4.9 g, 34.7 mmol) was added followed by dimethyl sulfate via syringe (0.62 mL, 6.3 mmol). The solution was stirred for 1 h, then filtered and evaporated in vacuo. This material was purified by flash chromatography, eluting silica gel with hexane:ethyl acetate (100:0 to 10:1) to give the product. (1.12 g, 82%); Mass spectrum (ion spray): m/z=238.1 (M+1).

reactant | 7-benzyloxy-1H-indole | C(C1=CC=CC=C1)OC=1C=CC=C2C=CNC12 | C15H13NO
reactant | potassium hydroxide | 7.23 mmol, 0.41 g | [OH-].[K+]
reactant | sodium sulfate | 34.7 mmol, 4.9 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 7-Benzyloxy-1-methyl-1H-indole | C(C1=CC=CC=C1)OC=1C=CC=C2C=CN(C12)C | C16H15NO
